US06358980B1
4-(4-but-2-ynyloxy-benzenesulfonyl)-1-(4-methoxy-benzyl)-piperidine-4-carboxylic acid ethyl ester was prepared according to the general method as outlined in Example 1. Starting from (4-but-2-ynyloxy-benzenesulfonyl)-acetic acid ethyl ester (2 g, 6.73 mmol) and bis-(2-chloro-ethyl)-(4-methoxy-benzyl)-amine (2.61 g, 8.75 mmol) and following the procedure as outlined in Example 1 (Step 6) 2.5 g of the product was isolated. Yield 2.5 g (77%); yellow oil; MS: 486 (M+H)+

reactant | (4-but-2-ynyloxy-benzenesulfonyl)-acetic acid ethyl ester | 6.73 mmol, 2 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C14H16O5S
reactant | bis-(2-chloro-ethyl)-(4-methoxy-benzyl)-amine | 8.75 mmol, 2.61 g | ClCCN(CC1=CC=C(C=C1)OC)CCCl | C12H17Cl2NO
product | 4-(4-but-2-ynyloxy-benzenesulfonyl)-1-(4-methoxy-benzyl)-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)OC)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C26H31NO6S
